US07714126B2
With a procedure similar to example 16 above, 2-methyl-5-phenyl-2H-pyrazole-3-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 2-methyl-5-phenyl-2H-pyrazole-3-carboxylic acid (made by hydrolysis of the corresponding commercially available ethyl ester) and N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C20H23N5O2 (m/e) 365, obsd 366 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 2-methyl-5-phenyl-2H-pyrazole-3-carboxylic acid | CN1N=C(C=C1C(=O)O)C1=CC=CC=C1 | C11H10N2O2
reactant | N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine | COCCN(C1=NC=C(C=C1)N)C | C9H15N3O
product | 2-methyl-5-phenyl-2H-pyrazole-3-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | COCCN(C1=CC=C(C=N1)NC(=O)C=1N(N=C(C1)C1=CC=CC=C1)C)C | C20H23N5O2
